US09290517B2
(3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-6-methyl-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-ol
A stirred solution of (3R,3aR,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,6a-tetrahydrofuro[3,2-b]furan-6-one (21.4 mg, 0.048 mmol) in THF (0.5 ml) was degassed (3×) and placed under nitrogen after being cooled to 0° C. in an ice bath. Methylmagnesium bromide 3.0 M in diethyl ether (0.16 ml, 0.480 mmol) was added to the reaction mixture. After 20 minutes, the reaction mixture was removed from the bath and allowed to warm to room temperature. After 1 hour, the reaction mixture was transferred via pipette into saturated aqueous NaHCO3 (15 ml) before being partitioned between EtOAc (30 ml) and water (15 ml). The aqueous layer was extracted with EtOAc (2×20 ml). The organic layers were combined, washed with brine (1×15 ml), dried over MgSO4, filtered, and evaporated under reduced pressure to give a colorless residue. This material was purified by preparative HPLC reverse phase (C-18), using a 30×150 mm Sunfire™ column and eluting with a 20%-80% acetonitrile/water+0.05% TFA gradient followed by a 80% acetonitrile/water+0.05% TFA flush. The product fractions were combined, evaporated under reduced pressure, and lyophilized from ethanol and benzene to give the title compound as a white solid. LC-MS: calculated for C25H22ClN3O4 463.13 observed m/e: 464.12 (M+H)+ (Rt 1.19/2 min); 1H NMR δ (ppm) (CD3OD): 8.00 (s, 1H), 7.74-7.78 (m, 4H), 7.71 (d, J=7.4 Hz, 2H), 7.49 (t, J=7.7 Hz, 2H), 7.39 (t, J=7.4 Hz, 1H), 5.60 (qt, J=5.1 Hz, 1H), 5.00 (t, J=5.2 Hz, 1H), 4.13-4.19 (m, 2H), 4.07 (d, J=4.8 Hz, 1H), 3.70 (d, J=8.1 Hz, 1H), 3.54 (d, J=8.1 Hz, 1H), 1.32 (s, 3H).

reactant | (3R,3aR,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-2,3,3a,6a-tetrahydrofuro[3,2-b]furan-6-one | 0.048 mmol, 21.4 mg | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@H]2[C@@H]1[C@H](OC2)C(CO1)=O | C24H18ClN3O4
reactant | Methylmagnesium bromide | 3.0 M | C[Mg]Br
reactant | diethyl ether | 0.480 mmol, 0.16 ml | C(C)OCC | C4H10O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | (3R,3aR,6R,6aS)-3-[[6-chloro-5-(4-phenylphenyl)-1H-imidazo[4,5-b]pyridin-2-yl]oxy]-6-methyl-3,3a,5,6a-tetrahydro-2H-furo[3,2-b]furan-6-ol | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2)O[C@H]2[C@@H]1[C@H](OC2)[C@@](CO1)(O)C | C25H22ClN3O4
